US04496564
A solution of 5-(3-aminopyrazol-1-yl)valeronitrile (1.0 g.) in acetonitrile (10 ml.) was treated with n-propylisothiocyanate (0.74 g.) and the solution heated under reflux on the steam bath for 6 hours. Evaporation of the solvent gave a brown gum which on trituration with ether/EtOH gave 5-(3-[3-propylthioureido]pyrazol-1-yl)valeronitrile as a white solid (1.01 g.).

reactant | 5-(3-aminopyrazol-1-yl)valeronitrile | 1.0 g | NC1=NN(C=C1)CCCCC#N | C8H12N4
reactant | n-propylisothiocyanate | 0.74 g | C(CC)N=C=S | C4H7NS
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-(3-[3-propylthioureido]pyrazol-1-yl)valeronitrile | C(CC)NC(NC1=NN(C=C1)CCCCC#N)=S | C12H19N5S
